* /home/cosmosanmol/esim-workspace/pnseq/pnseq.cir

.include avsd_opamp.sub
.lib "/usr/share/local/sky130_fd_pr/models/sky130.lib.spice" tt
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__linear.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__inductors.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__pnp.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__r+c.model.spice"
* u1  net-_u1-pad1_ gnd net-_u1-pad3_ pn
v1  net-_u4-pad1_ gnd pulse(0 5 0 0 0 0.001 0.002)
* u3  out plot_v1
* u4  net-_u4-pad1_ net-_u1-pad1_ adc_bridge_1
* u5  net-_u1-pad3_ net-_sc1-pad2_ dac_bridge_1
x1 net-_x1-pad1_ net-_x1-pad2_ out gnd triwav gnd avsd_opamp
* u6  triwav plot_v1
v2 net-_x1-pad1_ gnd  dc 5
v3 net-_x1-pad2_ gnd  dc 0
* s c m o d e
xsc3 out triwav sky130_fd_pr__cap_mim_m3_1 
xsc1 out net-_sc1-pad2_ net-_sc1-pad2_ sky130_fd_pr__res_generic_pd 
xsc2 ? out out sky130_fd_pr__res_generic_pd 
a1 [net-_u1-pad1_ ] [gnd ] [net-_u1-pad3_ ] u1
a2 [net-_u4-pad1_ ] [net-_u1-pad1_ ] u4
a3 [net-_u1-pad3_ ] [net-_sc1-pad2_ ] u5
* Schematic Name:                             pn, NgSpice Name: pn
.model u1 pn(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.00001e-00 0.1e-00 0e-12

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)
plot v(triwav)
.endc
.end
